US07375241B2
Hydrogenation of Dimethyl Itaconate
The hydrogenation is carried out by a method similar to example G2 using the rhodium complex of example F5. The conversion is quantitative, and the optical yield ee of the hydrogenation product (dimethyl methylsuccinate) is greater than 98%.

reactant | dimethyl methylsuccinate | CC(C(=O)OC)CC(=O)OC | C7H12O4
catalyst | rhodium | [Rh] | Rh
product | Dimethyl Itaconate | C(C(=C)CC(=O)OC)(=O)OC | C7H10O4
